US06599902B2
To a solution of 5-(3-Trifluoromethyl-phenylmethanesulfonyl)-1,3-dihydro-indol-2-one (100 mg, 0.28 mmol) and 5-formyl-2,4-dimethyl-1H-pyrrole-3-carboxylic acid (2-diethylamino-ethyl)-amide (75 mg, 0.28 mmol) in ethanol (4 mL) was added piperidine (0.1 mL). The reaction mixture was stirred at 25° C. for three days. The solvent was evaporated and the residue was purified on a silica gel column eluting with MeOH—CH2Cl2 1:9 to provide 105 mg (62%) of 2,4-dimethyl-5-[2-oxo-5-(3-trifluoromethyl-phenylmethanesulfonyl)-1,2-dihydro-indol-(3Z)-ylidenemethyl]-1H-pyrrole-3-carboxylic acid (2-diethylamino-ethyl)-amide as a pale orange solid.

reactant | 5-(3-Trifluoromethyl-phenylmethanesulfonyl)-1,3-dihydro-indol-2-one | 0.28 mmol, 100 mg | FC(C=1C=C(C=CC1)CS(=O)(=O)C=1C=C2CC(NC2=CC1)=O)(F)F | C16H12F3NO3S
reactant | 5-formyl-2,4-dimethyl-1H-pyrrole-3-carboxylic acid (2-diethylamino-ethyl)-amide | 0.28 mmol, 75 mg | C(C)N(CCNC(=O)C1=C(NC(=C1C)C=O)C)CC | C14H23N3O2
reactant | piperidine | 0.1 mL | N1CCCCC1 | C5H11N
solvent | ethanol | 4 mL | C(C)O | C2H6O
product | 2,4-dimethyl-5-[2-oxo-5-(3-trifluoromethyl-phenylmethanesulfonyl)-1,2-dihydro-indol-(3Z)-ylidenemethyl]-1H-pyrrole-3-carboxylic acid (2-diethylamino-ethyl)-amide | 105 mg, 62% | C(C)N(CCNC(=O)C1=C(NC(=C1C)\C=C\1/C(NC2=CC=C(C=C12)S(=O)(=O)CC1=CC(=CC=C1)C(F)(F)F)=O)C)CC | C30H33F3N4O4S
